US04657694
(1) Synthesis of 4-(2-methacryloyloxyethoxy)benzoyl chloride
This compound was synthesized by the reaction of 4-(2-hydroxyethoxy)benzoic acid, methyl methacrylate and thionyl chloride in the same manner as in Example 6-(1).

reactant | 4-(2-hydroxyethoxy)benzoic acid | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(2-methacryloyloxyethoxy)benzoyl chloride | C(C(=C)C)(=O)OCCOC1=CC=C(C(=O)Cl)C=C1 | C13H13ClO4
